US08461164B2
To a solution of 5-chloromethyl-2-(4-trifluoromethylphenoxy)-pyridine (1.8 g, 6.27 mmol) in EtOH (12 mL) was added NaCN (1.23 g, 25 mmol). The reaction mixture was heated to 50° C. for 16 h. More ethanol (6 mL) was added, and the reaction mixture clarified. After an additional 3 h, the solvent was removed in vacuo, the residue taken up in Et2O and washed with H2O. The organic layer was dried with Na2SO4, suction filtered and concentrated in vacuo. The residue was purified by flash chromatography (50% Et2O in petroleum ether over SiO2) to yield [6-(4-trifluoromethylphenoxy)-pyridin-3-yl]-acetonitrile (1.3 g) as a pink solid; 1H NMR (300 MHz, CDCl3) δ 8.17-8.09 (m, 1H), 7.81-7.71 (m, 1H), 7.70-7.61 (m, 2H), 7.29-7.19 (m, 2H), 7.04 (d, J=8.4 Hz, 1H), 3.73 (s, 2H); EIMS m/z 278 ([M]+).

reactant | 5-chloromethyl-2-(4-trifluoromethylphenoxy)-pyridine | 6.27 mmol, 1.8 g | ClCC=1C=CC(=NC1)OC1=CC=C(C=C1)C(F)(F)F | C13H9ClF3NO
reactant | NaCN | 25 mmol, 1.23 g | [C-]#N.[Na+]
solvent | EtOH | 12 mL | CCO | C2H6O
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | [6-(4-trifluoromethylphenoxy)-pyridin-3-yl]-acetonitrile | 1.3 g | FC(C1=CC=C(OC2=CC=C(C=N2)CC#N)C=C1)(F)F | C14H9F3N2O
